US07667041B2
Sodium hydride (1.14 g) was added to a DMF (30 mL) solution of 4-fluoro-3-hydroxybenzaldehyde (2.00 g) at room temperature., and the reaction solution was agitated for 30 minutes. Then, dibromoethane (2.46 mL) was added dropwise to the reaction solution, and the reaction solution was heated at 140° C. for 3 hours after the dropping ended. Water and ethyl acetate were added to the reaction solution under ice-cooling, and the organic layer was separated. The obtained organic layer was washed with a saturated sodium chloride solution, and the solvent was evaporated under reduced pressure after dried over anhydrous magnesium sulfate. The obtained residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate 6:1), and 606 mg (20%) 3-(2-bromoethoxy)-4-fluoro benzaldehyde was obtained. The physical properties of the compound are as follows.

reactant | Sodium hydride | 1.14 g | [H-].[Na+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | 4-fluoro-3-hydroxybenzaldehyde | 2.00 g | FC1=C(C=C(C=O)C=C1)O | C7H5FO2
reactant | dibromoethane | 2.46 mL | BrC(C)Br | C2H4Br2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-(2-bromoethoxy)-4-fluoro benzaldehyde | 606 mg, 20% | BrCCOC=1C=C(C=O)C=CC1F | C9H8BrFO2
